US05344843
Preparation of 4-[3-[4-(2-chlorophenyl)-9-methyl-6H -thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propoxy]-alpha-oxobenzeneacetic acid ethyl ester
As in Example 15, 4-(-2-chlorophenyl)-2-(3-hydroxy-1-propyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine (0.322 g) was treated with 4-hydroxyphenylglyoxylic acid ethyl ester (0.168 g) in the presence of diethyl azodicarboxylate (0.155 g) and triphenylphosphine (0.227 g) in dichloromethane (23 mL). The crude ester, isolated in the usual manner, was purified by flash chromatography over silica gel (150 g; ethanol-dichloromethane; 3.5:96.5) to furnish 0.354 g of 4-[3-[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl] propoxy]-alpha-oxobenzcneacetic acid ethyl ester as a white foam.

reactant | 4-(-2-chlorophenyl)-2-(3-hydroxy-1-propyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 0.322 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CCCO)C(=NN2)C | C18H17ClN4OS
reactant | 4-hydroxyphenylglyoxylic acid ethyl ester | 0.168 g | C(C)OC(C(=O)C1=CC=C(C=C1)O)=O | C10H10O4
reactant | diethyl azodicarboxylate | 0.155 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.227 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 23 mL | ClCCl | CH2Cl2
product | 4-[3-[4-(2-chlorophenyl)-9-methyl-6H -thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propoxy]-alpha-oxobenzeneacetic acid ethyl ester | C(C)OC(C(C1=CC=C(C=C1)OCCCC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3)Cl)=O)=O | C28H25ClN4O4S
